US05658922
7β-Methyl-5α-4-azapregnane-3,20-dione
To a stirred solution of 20-hydroxy-7β-methyl-5α-4-azapregnane-3-one (22.3 gms, 67 mmol) in dry methylene chloride under nitrogen (110 mL) was added 4-methyl morpholine N-oxide (11.8 gms, 100 mmol) followed by 4 Å molecular sieves (33 gm). To this mixture was added tetrapropylammonium perruthenate (1.2 gm). After stirring at room temperature for 4 hr, the reaction mixture was poured through pad of silica gel in a 300 mL sintered glass funnel which was subsequently eluted with 4:1 ethyl acetate/methylene chloride (5 L). The solvent was removed by rotoevaporation and the title compound recrystallized (16.3 gm).

reactant | 20-hydroxy-7β-methyl-5α-4-azapregnane-3-one | 67 mmol, 22.3 gms | OC(C)[C@H]1CC[C@H]2[C@@H]3[C@H](C[C@H]4NC(CC[C@]4(C)[C@H]3CC[C@]12C)=O)C | C21H35NO2
reactant | 4-methyl morpholine N-oxide | 100 mmol, 11.8 gms | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | tetrapropylammonium perruthenate | 1.2 gm | [Ru](=O)(=O)(=O)[O-].C(CC)[N+](CCC)(CCC)CCC
product | 7β-Methyl-5α-4-azapregnane-3,20-dione | C[C@@H]1[C@H]2[C@@H]3CC[C@H](C(C)=O)[C@]3(CC[C@@H]2[C@]2(CCC(N[C@@H]2C1)=O)C)C | C21H33NO2
